US04522647
To a solution of 1.06 g (2.94 mmol) of (R)-2-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid in 5 ml of dry ether under a nitrogen atmosphere and cooled to 0° is added 400 μl (5.50 mmol, 0.66 g) of thionyl chloride and 50 μl of DMF. After 5 hours at 0°, the reaction is stirred at RT overnight. The ether solution of acid chloride is then removed from the oily residue, and the ether and excess thionyl chloride are removed by rotoevaporation to give (R)-2-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid chloride.

reactant | (R)-2-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid | 2.94 mmol, 1.06 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(O[C@@H](C(=O)O)C)C=C1 | C15H11ClF3NO4
reactant | thionyl chloride | 5.50 mmol, 400 μl, 0.66 g | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 50 μl | CN(C)C=O | C3H7NO
solvent | ether | 5 ml | CCOCC | C4H10O
product | (R)-2-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid chloride | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(O[C@@H](C(=O)Cl)C)C=C1 | C15H10Cl2F3NO3
